US07230011B2
Benzenesulfonic Acid 7-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl Ester
Combine benzenesulfonic acid 7-bromo-1H-indole-5-yl ester and 1-methyl-4-piperidone (4 eq.) in acetic acid. Heat to about 75° C. before adding 2.0 N H3PO4 (3 eq.). After about 6 hours, cool to room temperature and pour into a mixture of ammonium hydroxide in ice water. Separate the organic layer and dry over Na2SO4 and concentrated. Purify to give the title compound.

reactant | benzenesulfonic acid 7-bromo-1H-indole-5-yl ester | BrC=1C=C(C=C2C=CNC12)OS(=O)(=O)C1=CC=CC=C1 | C14H10BrNO3S
reactant | 1-methyl-4-piperidone | 4 eq. | CN1CCC(CC1)=O | C6H11NO
reactant | H3PO4 | 2.0 N, 3 eq. | OP(=O)(O)O | H3O4P
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Benzenesulfonic Acid 7-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl Ester | BrC=1C=C(C=C2C(=CNC12)C=1CCN(CC1)C)OS(=O)(=O)C1=CC=CC=C1 | C20H19BrN2O3S
